US04061761
3-Ethyl-4-(4-chloro-3-sulfamoylphenyl)-2-(2-pyridylmethylimino)-1,3-thiazolidine-4-ol
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 3 g of 1-ethyl-3-(2-pyridylmethyl)-thiourea were reacted according to the prescription given in Example 23 and 150 ml of diethyl ether were added to the reaction mixture. The hygroscopic 3-ethyl-4-(4-chloro-3-sulfamoylphenyl)-2-(2-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide which had separated as crystals was rapidly filtered off, dissolved in 50 ml of water and converted into the end product as described in Example 28. Colorless solid body, decomposition beginning at 135° C, γC=N 1615 cm-1.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-ethyl-3-(2-pyridylmethyl)-thiourea | 3 g | C(C)NC(=S)NCC1=NC=CC=C1 | C9H13N3S
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 3-Ethyl-4-(4-chloro-3-sulfamoylphenyl)-2-(2-pyridylmethylimino)-1,3-thiazolidine-4-ol | C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NCC1=NC=CC=C1 | C17H19ClN4O3S2
